US07259266B2
8-(1-hydroxyethyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To a solution of 8-acetyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid prepared as in Example 62 lb (0.980 g, 2.65 mmole) in a mixture of THF (25 mL) and absolute EtOH (25 mL) at 0° C. was added NaBH4 (0.100 g, 2.65 mmole) in portions under a N2 atmosphere. The ice bath was removed after 15 minutes and the mixture was stirred at room temperature for 2.75 hrs. The mixture was then poured into ice water (100 mL), which was then saturated with NaCI and extracted with EtOAc (2×200 mL). The extracts were combined, washed with brine, dried over MgSO4, filtered and concentrated in vacuo to give the crude product as a pale yellow solid. Purification by silica chromatography (0% to 25% EtOAc:hexanes gradient) gave the crude product, which was further purified by crystallization from acetonitrile to give 516 mg (52% yield) of the product as an off-white crystalline solid: ESHRMS m/z 371.0378 (M−H, C14H9F6O5, Calc'd 371.0354); 1H NMR (dmso-d6, 300 MHz) 13.42 (brs, 1H), 7.89 (s, 1H), 7.93 (d, 1H, J=2.6 Hz), 7.42 (s, 1H), 6.42 (q, 1H, J=7.3 Hz), 5.41 (m, 1H), 4.96 (d, 1H, J=3.4 Hz), 1.29 (d, 3H, J=6.2 Hz).

reactant | 8-acetyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | C(C)(=O)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)OC(F)(F)F | C14H8F6O5
reactant | EtOH | 25 mL | CCO | C2H6O
reactant | NaBH4 | 2.65 mmole, 0.100 g | [BH4-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 8-(1-hydroxyethyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 516 mg, 52% yield | OC(C)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)OC(F)(F)F | C14H10F6O5
